US04806145
In a manner similar to Example 2, Step H, the reaction of 3.3 g (0.0088 mole) of methyl 2-[4-chloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)-2-methylphenoxy]propionate with 1.5 g (0.27 mole) of potassium hydroxide in 50 mL of ethanol and 15 mL of water produced 2.7 g of 2-[4-chloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)-2-methylphenoxy]propionic acid as a solid (mp 56°-60° C.), Compound A3.

reactant | methyl 2-[4-chloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)-2-methylphenoxy]propionate | 0.0088 mole, 3.3 g | ClC1=CC(=C(OC(C(=O)OC)C)C=C1N1N=C(N(C1=O)C(F)F)C)C | C15H16ClF2N3O4
reactant | potassium hydroxide | 0.27 mole, 1.5 g | [OH-].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 2-[4-chloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)-2-methylphenoxy]propionic acid | 2.7 g | ClC1=CC(=C(OC(C(=O)O)C)C=C1N1N=C(N(C1=O)C(F)F)C)C | C14H14ClF2N3O4
